Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Drug Allergy Information on File
 
Attending: ___.
 
Chief Complaint:
Skin abscess, positive blood cultures
 
Major Surgical or Invasive Procedure:
Incision and drainage of wound abcess

 
History of Present Illness:
Mr. ___ is a ___ year-old man with a history of IVDU. He 
initially presented to ___ ED on ___ with a right arm lesion 
around the site of recent heroin injection in which he missed 
the vein. There was concern for abscess vs aneurysm, but US was 
inconclusive.  The plan was to discharge with antibiotics, but 
the patient left AMA without antibiotic scripts. On ___, he 
went to ___ for ongoing symptoms, where the lesion was 
drained and packed but no antibiotics were started. Today, the 
blood cultures from ___ grew GPC in pairs in clusters. He was 
called back in to the ED. Of note, prior to being called in 
today, Mr. ___ had voluntarily checked into a heroin detox 
program, at ___.   Patient denies 
fevers, chills. He endorses myalgias, sweats, shaking, and a 
stomach ache.
.  
In the ED, initial VS: T 98.4, HR 78, BP 120/64, RR 14, 100% RA. 
Exam was notable for the appearance of a poorly packed wound. No 
murmur was noted. The packing was pulled out, the incision open 
further, copious pus extruded. The wound was explored and 
re-packed. CXR was unremarkable, and labs were WNL including no 
leukocytosis. He received 30 mg ketorolac, 4 mg zofran, 4 mg 
morphine, 1 g vancomycin (followed by 25 mg IV diphenhydramine 
because nurse was concerned for red man), and was admitted for 
further evaluation and management. VS prior to transfer 118/60, 
70, RR 10, 100% on RA.  
.  
On the floor, he is feeling better but arm pain at I&D site is 
returning.  He also notes a stomach ache.
 
Past Medical History:
- IV heroin use with multiple prior detoxes (5 at ___)
 
Social History:
___
Family History:
Grandfather: DM ___, CAD  
Grandmother: ___ CA  
Father: DM ___  
 
Physical Exam:
On admission:
Vitals: T: 97.2 BP: 110/82 P: 68 R: 18 O2: 99 on RA  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, pupils dilated 
at 6mm 
Neck: supple, no LAD, no JVD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
Abdomen: soft, non-tender, non-distended, no rebound tenderness 
or guarding  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
RUE: Dressing in place with visible blood, no erythema around 
bandage, unable to fully extend or flex arm, ROM at 100 to 150 
degrees
.
On Discharge: 
VSS. Exam unchaged except that RUE abcess continues to drain pus 
and is erythematous and tender.  
 
Pertinent Results:
On admission:
___ 03:40PM BLOOD WBC-11.0 RBC-4.58* Hgb-13.5* Hct-38.1* 
MCV-83 MCH-29.5 MCHC-35.5* RDW-12.9 Plt ___
___ 03:40PM BLOOD Glucose-108* UreaN-19 Creat-1.1 Na-136 
K-5.7* Cl-99 HCO3-27 AnGap-16
___ 03:48PM BLOOD Lactate-1.3 K-4.1
.
On discharge: 
___ 04:00AM BLOOD WBC-9.2 RBC-4.44* Hgb-12.9* Hct-38.8* 
MCV-87 MCH-29.1 MCHC-33.3 RDW-12.8 Plt ___
___ 04:00AM BLOOD Glucose-81 UreaN-17 Creat-1.0 Na-140 
K-4.2 Cl-103 HCO3-30 AnGap-11
.
Blood cxs x3 pending on discharge.  Wound culture from outside 
hospital grew strep viridans.  
.
CXR ___: No acute cardiopulmonary abnormality
 
Brief Hospital Course:
Mr. ___ is a ___ year-old man with a history of IV drug use who 
presented to the ED with abscess and positive blood cultures.  
He was treated with I&D of the abcess, packing and started on 
antibiotics, discharged in good condition back to ___ 
facility.

# Bacteremia: wound cxs from outside hospital grew strep 
viridans and ___ bottles from this hospital grew coag negative 
staph ___ bottles pending on dc).  He was treated with IV 
vancomycin while in house and showed no signs of systemic 
infection.  Bacterial growth was thought to be contaminants, 
although given persistent drainage of pus from arm abcess, he 
was discharged on a 7 day course of bactrim for gram 
positive/MRSA coverage.  On discharge, pt will f/u with PCP in 
___, Dr ___ blood cx results will be conveyed to PCP 
and pt by primary inpatient team. 
 
# Right arm Abscess: secondary to trauma from IVDU.  Pt was 
treated with I&D, packing and vancomycin.  Wound continued to 
drain and wick should be removed on the evening of discharge.  
We would also recommend daily dressing changes. Antibiotic 
regimen as above.
  
# Heroin abuse: patient apparently motivated to abstain as he is 
currently enrolled in detox at ___.  
He was initially given 45 mg of methadone (in divided doses) for 
withdrawal as we were unable to obtain detox center records.  He 
was then transitioned to methodone schedule per detox guidelines 
and was given 20 mg on the day of discharge.  He required 
minimal amts of librium for wihtdrawal symptoms while in house.  
On discharge he returned to the detox center.
 
Medications on Admission:
Clonidine 0.2 mg up to 5x/day

 
Discharge Medications:
1. Nicotine 14 mg/24 hr Patch 24 hr Sig: One (1) Patch 24 hr 
Transdermal DAILY (Daily).
Disp:*15 Patch 24 hr(s)* Refills:*0*
2. Chlordiazepoxide HCl 5 mg Capsule Sig: One (1) Capsule PO Q6H 
(every 6 hours) as needed for withdrawal symptoms.  
3. Methadone 5 mg Tablet Sig: Four (4) Tablet PO ONCE (Once) for 
1 doses: Please taper 5 mg/day (20 mg given on ___. 
Tablet(s) 
4. Bactrim DS 800-160 mg Tablet Sig: One (1) Tablet PO twice a 
day for 7 days.
Disp:*14 Tablet(s)* Refills:*0*
5. Clonidine 0.2 mg Tablet Sig: One (1) Tablet PO three times a 
day as needed for withdrawal sxs: For use when methadone dose is 
<15.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Skin abscess

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted for a skin abscess and positive blood 
cultures.  You were treated with incision and drainage of the 
wound which was then packed with gauze.  You were also treated 
with antibiotics and methadone for withdrawal.
.
Please take your medications as prescribed and follow up with 
your primary care physician after you leave rehab.  The 
following changes have been made to your medications: 
-START taking bactrim for 7 days after discharge
-RESUME clonidine, methadone, librium, bentyl per detox center 
guidelines
-START nicotine patch for nicotine withdrawal
 
Followup Instructions:
___